Punto DC
*SPICE Netlist generated by Advanced Sim server on 27/8/2021 19:35:20

*Schematic Netlist:
V1 VinD 0 +5
D1 VoutD VinD 1N4001
R1 0 VoutD 1K

.SAVE 0 VinD VoutD V1#branch @V1[z] @D1[id] @R1[i] @D1[p] @R1[p] @V1[p]

*PLOT DC -1 1 A=VinD

*Selected Circuit Analyses:
.DC V1 -50 50 1

*Models and Subcircuits:
.MODEL 1N4001 D(IS=2.55E-9 RS=0.042 N=1.75 TT=5.76E-6 CJO=1.85E-11 VJ=0.75
+ M=0.333 BV=50 IBV=1E-5 )

.END
