HDT_8
*SPICE Netlist generated by Advanced Sim server on 29/8/2021 21:01:33

*Schematic Netlist:
V1 0 V3 +6
V2 V1 0 +12
R1 V3 V1 9K
R2 V1 V2 12K
R3 V3 V2 12K
R4 V2 0 6K

.SAVE 0 V1 V2 V3 V1#branch V2#branch @V1[z] @V2[z] @R1[i] @R2[i] @R3[i] @R4[i]
.SAVE @R1[p] @R2[p] @R3[p] @R4[p] @V1[p] @V2[p]

*PLOT DC -1 1 A=V1 A=V2 A=V3

*Selected Circuit Analyses:
.DC V1 -10 10 1 V2 -10 10 1

.END
