PCBs_UVG
*SPICE Netlist generated by Advanced Sim server on 23/8/2021 18:14:48

*Schematic Netlist:
V10 INTEMP 0 DC 0 SIN(0 1 1KHz 0 0 0) AC 1 0
V11 VCC 0 +12
V12 VEE 0 -12
C7 NetC7_1 OUTTEMP 0.02u
C8 NetC8_1 NetC7_1 0.02u
R11 NetC7_1 OUTTEMP 159k
R12 INTEMP NetC8_1 39.8k
R13 NetC8_1 0 401.9
XU? 0 NetC7_1 VCC VEE OUTTEMP UA741

.SAVE OUTTEMP

*PLOT AC -1 1 A=OUTTEMP

.OPTION KeepLastSetup=False
*Selected Circuit Analyses:
.AC DEC 100 1 1E4
.CONTROL
SWEEP OPTION[TEMP] 0 -50 -1
.ENDC

*Models and Subcircuits:
.SUBCKT UA741 1 2 3 4 5
C1   11 12 4.664E-12
C2    6  7 20E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
BGND 99  0 V=V(3)*.5 + V(4)*.5
BB    7 99 I=I(VB)*10.61E6 - I(VC)*10E6 + I(VE)*10E6 + I(VLP)*10E6 - I(VLN)*10E6
GA    6  0 11 12 137.7E-6
GCM   0  6 10 99 2.574E-9
IEE  10  4 DC 10.16E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100E3
RC1   3 11 7.957E3
RC2   3 12 7.957E3
RE1  13 10 2.74E3
RE2  14 10 2.74E3
REE  10 99 19.69E6
RO1   8  5 150
RO2   7 99 150
RP    3  4 18.11E3
VB    9  0 DC 0
VC    3 53 DC 2.6
VE   54  4 DC 2.6
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=62.5)
.ENDS UA741

.END
